US08981084B2
A solution of 5-(4-(5-cyanopyridin-2-yl)-2-methylpiperazin-1-yl)-N′-hydroxy-5-oxopentanimidamide (400 mg, 1.21 mmol) in anhydrous pyridine (4 mL) was cooled to 0° C. and trifluoroacetic anhydride (0.5 mL) was added dropwise. The reaction mixture was slowly warmed to room temperature and further heated to 110° C. for 3 h. The reaction mixture was concentrated under reduced pressure and diluted with EtOAc. The organic layer was washed with water and brine, concentrated under reduced pressure, and the crude product was purified by column chromatography (silica gel 60-120 mesh, eluant: 50% EtOAc in petroleum ether) followed by preparative TLC to afford 6-(3-methyl-4-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoyl)piperazin-1-yl)nicotinonitrile (28 mg, yield 6%) 1H NMR (400 MHz, DMSO-d6, 70° C.) δ 8.74 (d, J=2.4 Hz, 1H), 8.09-8.06 (dd, J=8.8 Hz, 2.4 Hz, 1H), 6.99-6.97 (d, J=9.1 Hz, 1H), 4.47 (br s, 1H), 4.27-4.20 (m, 2H), 4.01 (br s, 1H), 3.39-3.35 (dd, J=13.4 Hz, 4.0 Hz, 1H), 3.30-3.12 (m, 2H), 2.55-2.53 (m, 2H), 2.49-2.43 (m, 2H), 1.89-1.82 (m, 2H), 1.15-1.13 (m, 3H). MS (ESI) m/z: Calculated for C18H19F3N6O2: 408.15. found: 409.2 (M+H)+

reactant | 5-(4-(5-cyanopyridin-2-yl)-2-methylpiperazin-1-yl)-N′-hydroxy-5-oxopentanimidamide | 1.21 mmol, 400 mg | C(#N)C=1C=CC(=NC1)N1CC(N(CC1)C(CCCC(N)=NO)=O)C | C16H22N6O2
reactant | trifluoroacetic anhydride | 0.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 6-(3-methyl-4-(4-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)butanoyl)piperazin-1-yl)nicotinonitrile | 28 mg, yield 6% | CC1CN(CCN1C(CCCC1=NOC(=N1)C(F)(F)F)=O)C1=NC=C(C#N)C=C1 | C18H19F3N6O2
